US07462634B2
4′-cyano-N-[6-(ethylamino)pyridin-2-yl]biphenyl4-sulfonamide
To a suspension of N-(6-Aminopyridin-2-yl)4′-cyanobiphenyl-4-sulfonamide (0.08 g, 0.23 mmol) in methanol (1 mL) was added acetaldehyde (0.02 mL, 0.34 mmol)) and molecular sieves (4 Å) were added. The resultant suspension was stirred for 30 minutes before the addition of sodium cyanoborohydride (0.043 g, 0.70 mmol). After 6 h, the reaction mixture was diluted with saturated aqueous sodium bicarbonate, and the aqueous layer was extracted with dichloromethane (2×10 mL). The combined organic layers was washed with brine and dried over sodium sulfate. Purification by high performance flash chromatography (25% EtOAc in hexanes) gave the product (0.055g, 63%). 1H NMR (400 MHz, CDCl3), δ: 8.03 (d, J=8.6 Hz, 2H), 7.73 (d, J=8.6 Hz, 2H), 7.65 (d, J=8.6 Hz, 2H), 7.62 (d, J=8.6 Hz, 2H), 7.40 (t, J=8.3 Hz, 1H), 6.64 (d, J=8.1 Hz, 1H), 5.88 (d, J=8.3 Hz, 1H), 3.10-3.21 (m, 2H) 1.23 (t, J=7.2 Hz, 3H); LRMS (ESI) m/z: 379.12; Anal. Calcd for C20H18N4O2S: C, 63.47; H, 4.79; N, 14.80. Found: C, 63.11; H, 4.82; N, 14.63.

reactant | N-(6-Aminopyridin-2-yl)4′-cyanobiphenyl-4-sulfonamide | 0.23 mmol, 0.08 g | NC1=CC=CC(=N1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C18H14N4O2S
reactant | acetaldehyde | 0.34 mmol, 0.02 mL | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.70 mmol, 0.043 g | C(#N)[BH3-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4′-cyano-N-[6-(ethylamino)pyridin-2-yl]biphenyl4-sulfonamide | 0.055g, 63% | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=CC=C1)NCC | C20H18N4O2S
